US06066657
2-Methanesulfonyl-7-methoxybenzofuran
A solution of Oxone® (7.37 g) in water (40 ml) was added to a solution of 7-methoxy-2-methylsulfanylbenzofuran (2.24 g) and the reaction mixture was stirred at room temperature overnight. The methanol was removed in vacuo and the resulting slurry was extracted with ethyl acetate (2×200 ml). The combined organic phases were washed with brine (200 ml) and then dried over sodium sulfate. The solvent was removed in vacuo to furnish the title compound as a yellow solid (2.24 g).

reactant | Oxone | OOS(=O)[O-].[K+]
reactant | 7-methoxy-2-methylsulfanylbenzofuran | 2.24 g | COC1=CC=CC=2C=C(OC21)SC | C10H10O2S
reactant | water | 40 ml | O | H2O
product | 2-Methanesulfonyl-7-methoxybenzofuran | 2.24 g | CS(=O)(=O)C=1OC2=C(C1)C=CC=C2OC | C10H10O4S
